data/preprocessed/USPTO_50_suzuki.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CC1=NC2=C(I)C(C)=CC=C2C(NC2=CC=CC(OC(F)(F)F)=C2)=N1.CNC1=NC2=CC=C(B3OC(C)(C)C(C)(C)O3)C=C2C=N1.O=C([O-])[O-].[Na+].[Na+].[Pd:2]|(1, 2)",35,6,reaction_44,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:2])C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CC1=NC(NC2=CC=CC(OC(F)(F)F)=C2)=C2C=CC(C)=C(I)C2=N1.CNC1=NC=C2C=C(B3OC(C)(C)C(C)(C)O3)C=CC2=N1.O=C([O-])[O-].[Na+].[Na+]|(1, 2)",35,5,reaction_44,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:3][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CC1=NC(NC2=CC=CC(OC(F)(F)F)=C2)=C2C=CC(C)=[C:1]([I:2])C2=N1.CNC1=NC=C2C=C(B3OC(C)(C)C(C)(C)O3)C=CC2=N1.O=C([O-])[O-].[Na+].[Na+]|(3, 1);((1, 2), 3)",35,4,reaction_44,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CC1=NC(NC2=CC=CC(OC(F)(F)F)=C2)=C2C=CC(C)=[C]([Pd-2:1]([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[I:2])C2=N1.CNC1=NC=C2C=C(B3OC(C)(C)C(C)(C)O3)C=CC2=N1.O=C([O-])[O-:3].[Na+:4].[Na+]|(3, 1);((1, 2), 4)",35,3,reaction_44,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CC1=NC(NC2=CC=CC(OC(F)(F)F)=C2)=C2C=CC(C)=[C]([Pd-2:2]([O]C(=O)[O-])([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)C2=N1.CNC1=NC=C2C=[C:3]([B:1]3OC(C)(C)C(C)(C)O3)C=CC2=N1.[Na+].[Na][I]|(2, 3);((3, 1), 2)",35,2,reaction_44,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CNC1=NC=C2C=[C]([Pd-2:2]([C]3=C(C)C=CC4=C(NC5=CC=CC(OC(F)(F)F)=C5)N=C(C)N=C43)([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)([B:1]3OC(C)(C)C(C)(C)O3)[O:3]C(=O)[O-])C=CC2=N1.[Na+].[Na][I]|((2, 3), 1);((1, 2), 2)",35,1,reaction_44,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CC1(C)OB(OC(=O)[O-])OC1(C)C.CNC1=NC=C2C=[C:1]([Pd-2:2]([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[C:3]3=C(C)C=CC4=C(NC5=CC=CC(OC(F)(F)F)=C5)N=C(C)N=C43)C=CC2=N1.[Na+].[Na][I]|((2, 3), 1);((1, 2), 2)",35,0,reaction_44,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.COC(=O)C1=CC=C(Br)C=C1[N+](=O)[O-].O.O=C([O-])O.OB(O)C1=CC=CC=C1.[Na+].[Pd:1]|(2, 1)",20,6,reaction_34,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:1])C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.COC(=O)C1=CC=C(Br)C=C1[N+](=O)[O-].O.O=C([O-])O.OB(O)C1=CC=CC=C1.[Na+]|(2, 1)",20,5,reaction_34,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:2][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.COC(=O)C1=CC=[C:3]([Br:1])C=C1[N+](=O)[O-].O.O=C([O-])O.OB(O)C1=CC=CC=C1.[Na+]|(2, 3);((3, 1), 2)",20,4,reaction_34,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.COC(=O)C1=CC=[C]([Pd-2:4]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[Br:2])C=C1[N+](=O)[O-].O.O=C(O)[O-:1].OB(O)C1=CC=CC=C1.[Na+:3]|(1, 4);((4, 2), 3)",20,3,reaction_34,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.COC(=O)C1=CC=[C]([Pd-2:1]([O]C(=O)O)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1[N+](=O)[O-].O.O[B:2](O)[C:3]1=CC=CC=C1.[Na][Br]|(1, 3);((3, 2), 1)",20,2,reaction_34,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.COC(=O)C1=CC=[C]([Pd-2:1]([C]2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([O:2]C(=O)O)[B:3](O)O)C=C1[N+](=O)[O-].O.[Na][Br]|((1, 2), 3);((3, 1), 1)",20,1,reaction_34,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.COC(=O)C1=CC=[C:1]([Pd-2:2]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:3]2=CC=CC=C2)C=C1[N+](=O)[O-].O.O=C(O)OB(O)O.[Na][Br]|((2, 1), 3);((3, 2), 2)",20,0,reaction_34,USPTO_suzuki,train
